US08026257B2
5-(Bromomethyl)-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole.
To a solution of (7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methanol (138 mg, 0.472 mmol) and carbon tetrabromide (235 mg, 0.708 mmol) in tetrahydrofuran (1 mL) at 0° C. was added triphenylphosphine (186 mg, 0.708 mmol). The resulting solution was stirred at room temperature for 30 min. The reaction was diluted with several volumes of pentane and filtered to remove undissolved solids. The organics were concentrated and purified by column chromatography (5→12% EtOAc/Hex) to give 114 mg (68%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 8.03 (s, 1H), 7.48 (s, 1H), 7.06 (s, 1H), 5.68 (s, 2H), 4.55 (s, 2H), 3.61 (m, 2H), 2.59 (s, 3H), 0.91 (m, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 148.8, 131.6, 129.0, 126.6, 123.3, 121.6, 118.1, 81.7, 67.3, 35.4, 17.7, 17.1, −1.5.

reactant | (7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methanol | 0.472 mmol, 138 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CO | C15H24N2O2Si
reactant | carbon tetrabromide | 0.708 mmol, 235 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.708 mmol, 186 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 5-(Bromomethyl)-7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | BrCC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C15H23BrN2OSi
